US05763450
13ay) A mixture of 1.53 g of 3-iodoaniline, 2.02 g of triethylamine and 0.1 g of 4-dimethylaminopyridine in 25 ml of THF is treated dropwise with 1.83 g of cyclopropanecarbonyl chloride and subsequently held at reflux for 4 hrs. The mixture is poured into 50 ml of ice-water, made weakly acid (pH about 4) with dil. HCl and extracted three times with ethyl acetate. Chromatography on silica gel with petroleum ether/ethyl acetate 4:1 gives 1.73 g (69%) of crude cyclopropanecarboxylic acid cyclopropanecarbonyl-(3-iodo-phenyl)-amide as a colourless oil with solidifies after a few days. Yield: 69%.

reactant | 3-iodoaniline | 1.53 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 1.83 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | HCl | Cl | ClH
reactant | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | cyclopropanecarboxylic acid cyclopropanecarbonyl-(3-iodo-phenyl)-amide | 1.73 g, 69% | C1(CC1)C(=O)N(C(=O)C1CC1)C1=CC(=CC=C1)I | C14H14INO2
